US08748613B2
To a solution of (R)-quinuclidin-3-yl 2-phenyl-2-(piperidin-1-yl)acetate (100 mg, 0.30 mmol) in EtOAc (2 ml) and acetonitrile (1 ml), was added 4-(chloromethyl)-2-phenyloxazole (70.7 mg, 0.36 mmol). The reaction was stirred at room temperature for 30 hours and then the solvents were evaporated. Purification by flash chromatography (DCM/MeOH=9/1) followed by trituration with Et2O afforded (3R)-3-(2-phenyl-2-(piperidin-1-yl)acetoxy)-1-((2-phenyloxazol-4-yl)methyl)-1-azoniabicyclo[2.2.2]octane chloride (55 mg, 34.6% yield) as an off-white solid.

reactant | (R)-quinuclidin-3-yl 2-phenyl-2-(piperidin-1-yl)acetate | 0.30 mmol, 100 mg | C1(=CC=CC=C1)C(C(=O)O[C@H]1CN2CCC1CC2)N2CCCCC2 | C20H28N2O2
reactant | 4-(chloromethyl)-2-phenyloxazole | 0.36 mmol, 70.7 mg | ClCC=1N=C(OC1)C1=CC=CC=C1 | C10H8ClNO
solvent | EtOAc | 2 ml | CCOC(=O)C | C4H8O2
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
product | (3R)-3-(2-phenyl-2-(piperidin-1-yl)acetoxy)-1-((2-phenyloxazol-4-yl)methyl)-1-azoniabicyclo[2.2.2]octane chloride | 55 mg, 34.6% yield | [Cl-].C1(=CC=CC=C1)C(C(=O)O[C@H]1C[N+]2(CCC1CC2)CC=2N=C(OC2)C2=CC=CC=C2)N2CCCCC2 | InChI=1S/C30H36N3O3.ClH/c34-30(28(24-10-4-1-5-11-24)32-16-8-3-9-17-32)36-27-21-33(18-14-23(27)15-19-33)20-26-22-35-29(31-26)25-12-6-2-7-13-25;/h1-2,4-7,10-13,22-23,27-28H,3,8-9,14-21H2;1H/q+1;/p-1/t23?,27-,28?,33?;/m0./s1
